US07579359B2
A solution of N-(4-chloroquinolin-3-yl)-2-methylpropanamide (6.0 g, 24 mmol), O-methylhydroxylamine hydrochloride (2.5 g, 0.030 mol), and ethanol (75 mL) was heated at reflux for five hours, allowed to cool to room temperature, stirred overnight, and concentrated under reduced pressure. The residue was dissolved in dichloromethane (100 mL), and the solution was washed with saturated aqueous sodium carbonate (2×50 mL) dried over potassium carbonate, filtered, and concentrated under reduced pressure to provide 4.9 g of 2-isopropyl-1-methoxy-1H-imidazo[4,5-c]quinoline as a dark oil.

reactant | N-(4-chloroquinolin-3-yl)-2-methylpropanamide | 24 mmol, 6.0 g | ClC1=C(C=NC2=CC=CC=C12)NC(C(C)C)=O | C13H13ClN2O
reactant | O-methylhydroxylamine hydrochloride | 0.030 mol, 2.5 g | Cl.CON
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-isopropyl-1-methoxy-1H-imidazo[4,5-c]quinoline | 4.9 g | C(C)(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OC | C14H15N3O
